US03992539
Preparation of 3-Trifluoromethyl-6-carbomethoxy-s-triazolo-[3,4-a]-isoquinoline: ##SPC3##
Excess trifluoroacetic anhydride and 1-hydrazino-4-methoxycarbonylisoquinoline were allowed to reflux for one hour and the excess anhydride was removed under reduced pressure. The residue was recrystallized from a mixture of benzene and cyclohexane to provide the product, m.p. 170°C.

reactant | trifluoroacetic anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 1-hydrazino-4-methoxycarbonylisoquinoline | N(N)C1=NC=C(C2=CC=CC=C12)C(=O)OC | C11H11N3O2
product | 3-Trifluoromethyl-6-carbomethoxy-s-triazolo-[3,4-a]-isoquinoline | FC(C1=NN=C2N1C=C(C1=CC=CC=C21)C(=O)OC)(F)F | C13H8F3N3O2
